US08703768B2
A-11: 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid
A solution of 6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid methyl ester (150 mg, 550 μmol) in THF (9 ml) and MeOH (1.8 ml) was cooled at 0° C. and treated with LiOH (1.66 ml, 1N aqueous solution). The ice bath was removed after 10 min and the reaction mixture was stirred at ambient temperature for 2 hrs. The reaction mixture was acidified with HCl (1.66 ml, 1N aqueous solution), diluted with water and extracted with dichloromethane. The combined organic layers were dried and concentrated in vacuo to yield a yellow solid. The aqueous phase was also concentrated in vacuo and the residue was triturated with ethyl acetate and sucked off to yield identical yellow solid (according to analytics). The solid material was combined to yield the product (75 mg, 52%)

reactant | 6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid methyl ester | 550 μmol, 150 mg | COC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1CC1 | C13H13N5O2
reactant | LiOH | 1N, 1.66 ml | [Li+].[OH-]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1.8 ml | CO | CH4O
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid | 75 mg, 52% | C1(CC1)C1=CN=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C12H11N5O2
